US07132426B2
A solution of piperidin-4-ol (100 mg, 0.99 mmol), desired 2-chlorpyridine (0.99 mmol, 1.0 equiv.), and DIPEA (345 μL, 1.98 mmol) in isopropanol (1.5 mL) was heated by microwave irradiation at 160° C. for 2.5 h. The reaction was purified directly by silica gel chromatography to give the desired 3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ol (using 5-bromo-2-chloropyridine, 5′-bromo-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ol was isolated in 27% yield, 69.1 mg, 0.27 mmol; using 5-trifluoromethyl-2-chloropyridine, 5′-trifluoromethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ol was isolated in 62% yield, 150.1 mg, 0.61 mmol).

reactant | piperidin-4-ol | 0.99 mmol, 100 mg | N1CCC(CC1)O | C5H11NO
reactant | 2-chlorpyridine | 0.99 mmol, 1.0 equiv. | ClC1=NC=CC=C1 | C5H4ClN
reactant | DIPEA | 1.98 mmol, 345 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | isopropanol | 1.5 mL | C(C)(C)O | C3H8O
product | 3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ol | 0.27 mmol, 69.1 mg, 27% yield | N1(CCC(CC1)O)C1=NC=CC=C1 | C10H14N2O
